2140-04-24 07:26:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
   - BP dipped into low 80s overnight
   - Given 500c bolus of IVF
   - Transfused 1 unit pRBC
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2140-4-24**] 12:00 AM
   Metronidazole - [**2140-4-24**] 01:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-4-24**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 64 (55 - 73) bpm
   BP: 98/38(53) {76/12(29) - 109/42(57)} mmHg
   RR: 27 (17 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  4,012 mL
                                                                  1,204 mL
   PO:
           TF:
   IVF:
                                                                     12 mL
                                                                    906 mL
   Blood products:
   298 mL
   Total out:
                                                                    200 mL
                                                                    950 mL
   Urine:
   950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,812 mL
                                                                    254 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   GEN:  Well-appearing, lying in bed in no distress.
   HEENT:  PERRL (3mm --> 2mm); dry MM; JVP just above clavicle while
   lying flat
   CV:  Regular. Split S2. No murmurs.
   PULM:  Clear bilaterally without wheeze/rales.
   ABD:  Soft.  Non-tender throughout.  No palpable masses.
   EXT:  Warm.  No edema.  Dopplerable pulses.
   NEURO:  Alert, oriented to person, "[**Hospital1 5**]" and "[**4-23**]".  Able to
   relate recent events well.
   Labs / Radiology
   275 K/uL
   7.6 g/dL
   131 mg/dL
   2.0 mg/dL
   21 mEq/L
   4.0 mEq/L
   28 mg/dL
   110 mEq/L
   140 mEq/L
   26.6 %
   26.2 K/uL
        [image002.jpg]
                             [**2140-4-23**]  09:51 PM
                             [**2140-4-24**]  01:30 AM
                             [**2140-4-24**]  06:19 AM
   WBC
   26.2
   Hct
   25.3
   22.8
   26.6
   Plt
   275
   Cr
   2.0
   Glucose
   131
   Other labs: PT / PTT / INR:45.3/37.7/5.1, ALT / AST:55/62, Alk Phos / T
   Bili:74/0.3, Amylase / Lipase:/268, Differential-Neuts:75.0 %,
   Band:18.0 %, Lymph:0.0 %, Mono:5.0 %, Eos:0.0 %, Albumin:2.8 g/dL,
   LDH:299 IU/L, Ca++:7.2 mg/dL, Mg++:1.5 mg/dL, PO4:3.9 mg/dL
   Micro:
   Blood ([**4-23**]):  GNR speciation and sensis pending
   Urine ([**4-23**]):  NGTD
   Assessment and Plan:  85F with history of newly noted abdominal mass,
   now being admitted with sepsis.
   #. Sepsis.  Lactate improved though WBC increasing with persistent
   bands.  Cultures growing GNR in blood  concern for GI source given
   mass. No pyuria to suggest urinary tract infection. Note pt on chronic
   keflex.
   - Continue to cover enteric GNR with pip/tazo.
   - Can stop vancomycin and flagyl
   - IVF and pressors to maintain SBP>90 (has wide pulse pressure so favor
   using SBP)
   - Blood/urine cultures pending
   - MRI abdomen to better evaluate site of abdominal mass
   - Holding coumadin and plavix (no stents) in case of possible biopsy
   #. Anemia.  At baseline upon presentation; after 4 liters of IVF,
   decreased to nadir of 22.8, followed by one unit of pRBCs.  GI source
   is possible as noted to have BRBPR with bowel movement soon after
   arrival to MICU; the large abdominal mass may also represent hematoma.
   Hemolysis labs unrevealing.
   [**Month (only) 8**] be due to diverticular bleed, also consider ischemic colitis, or
   bleeding related to mass
   - Active T&S
   - Q6H hct (bumped well after transfusion)
   - Reverse INR with vitamin K and FFP
   # Abdominal mass.  Diagnosis is as yet to be determined.  Based on CT
   report (heterogeneous left upper abdominal mass with areas of low and
   high density suggesting hemorrhage; underlying tumor is suspected;
   origin of mass is not clear, but not likely adrenal, renal or gastric
   in origin; given mass effect on the colon, retroperitoneal mass such as
   pancreatic hemorrhagic tumor or hemorrhagic pseudocyst arising from the
   pancreatic tail is considered) there are a few areas of origin
   possible.
   - MRI as above
   - General surgery ([**Doctor Last Name 2149**]) following; appreciate their recs/input
   #. Pancreatitis.  Has elevated lipase though exam is not overwhelming
   and CT does not show clear evidence of pancreatitis.
   - PO as tolerated
   #. Transaminitis.  Not severe and seen previosly.  [**Month (only) 8**] be related to
   statin or hypothyroidism.
   #. Chronic kidney disease.  At baseline.  Will monitor closely and use
   contrast/gadolinium sparingly.
   #. Elevated TSH.  No prior diagnosis of hypothyroisism; is on
   amiodarone so at increased risk for thyroid dysfunction. T4 is WNL. [**Month (only) 8**]
   be sick euthyroid syndrome. Repeat TFTs as an outpatient.
   #. Coronary artery disease.
   - Continue statin/zetia; consider holding plavix
   #. Hyperlipidemia.
   - Continue statin/zetia
   #. Atrial fibrillation.
   - Continue amiodarone.
   - Will hold coumadin given elevated INR.
   ICU Care
   Nutrition:  Regular diet
   Glycemic Control: Blood sugar well controlled
   Lines: 18 Gauge - [**2140-4-23**] 10:53 PM
   Prophylaxis:
   DVT: Boots; INR>2.0
   Stress ulcer:  n/a
   VAP:  n/a
   Communication: ICU consent signed
   Code status: Full code
   Disposition: ICU

2140-04-24 08:36:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85F with history of newly noted abdominal mass, also with cad, mvp, af
   on a/c, and CKD, now admitted with sepsis:
   24 Hour Events:
   Admitted last night.
   BP stabilized with IVF (4 liters in) and 1 unit PRBC.
   Afebrile.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2140-4-24**] 12:00 AM
   Metronidazole - [**2140-4-24**] 01:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   mvi, flag, vanco, metronid, zosyn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Orthopnea
   Nutritional Support: NPO
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2140-4-24**] 08:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 64 (55 - 73) bpm
   BP: 98/38(53) {76/12(29) - 109/42(57)} mmHg
   RR: 27 (17 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  4,012 mL
                                                                  1,229 mL
   PO:
           TF:
   IVF:
                                                                     12 mL
                                                                    931 mL
   Blood products:
   298 mL
   Total out:
                                                                    200 mL
                                                                    950 mL
   Urine:
   950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,812 mL
                                                                    279 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, No(t) Anxious
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal, No(t)
   Distant), (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   275 K/uL
   131 mg/dL
   2.0 mg/dL
   21 mEq/L
   4.0 mEq/L
   28 mg/dL
   110 mEq/L
   140 mEq/L
   26.6 %
   26.2 K/uL
        [image002.jpg]
                             [**2140-4-23**]  09:51 PM
                             [**2140-4-24**]  01:30 AM
                             [**2140-4-24**]  06:19 AM
   WBC
   26.2
   Hct
   25.3
   22.8
   26.6
   Plt
   275
   Cr
   2.0
   Glucose
   131
   Other labs: PT / PTT / INR:45.3/37.7/5.1, ALT / AST:55/62, Alk Phos / T
   Bili:74/0.3, Amylase / Lipase:/268, Differential-Neuts:75.0 %,
   Band:18.0 %, Lymph:0.0 %, Mono:5.0 %, Eos:0.0 %, Albumin:2.8 g/dL,
   LDH:299 IU/L, Ca++:7.2 mg/dL, Mg++:1.5 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: hct 22->26
   bands 18->16
   irn 5.1
   cr 2
   mild lipase and transaminitis elevation
   Imaging: cxr: enlarged R hilum
   abd ct: peri-splenic mass
   Microbiology: BCx with GNR!
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   85F generally healthy with cad, af on coumadin, recent abdominal pain,
   presents with fevers and rigors, gnr bacteremia, and newly identified
   abdominal mass of unclear etiology, with guaiac positive stool and
   decreased by stable hct:
   gnr bacteremia/sepsis: responded well to fluids, bp improved
   -cont abx, fu speciation/sensies; stop flagyl
   -looking for source, likely related to abd mass
   -depending on speciation will consider tte to look for veg (given mvp)
   abd mass: tumor vs abscess, vs hematoma (given high inr); likely
   related to elavated lipase
   -mri
   -will re-consult appropriate services (gi, surgery, ir) depending on
   MRI results
   -transfuse prn and monitor for gib
   afib:
   -holding a/c given eleveted inr and possible procedure soon
   -cont amiodarone (will try to clarify why rhythm control)
   cad:
   -holding plavix given bleeding and possible procedures
   dispo:
   -likely to floor if bp remains stable into this am
   ICU Care
   Nutrition:
   Comments: npo -> advance diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2140-4-23**] 10:53 PM
   20 Gauge - [**2140-4-24**] 02:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2140-04-25 07:43:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   --increased SOB after FFP, initially looked okay so went down to MRI
   but then increased work of breathing 90's on 4L came back to MICU
   exam c/w volume overload, gave lasix/nitro/morphine. had a similar
   episode in the evening, again responsive to lasix and morphine. sent
   cardiac enzymes.
   --patient's cardiology ([**First Name8 (NamePattern2) 6511**] [**Last Name (NamePattern1) 6512**] [**Hospital1 12**]) [**Numeric Identifier 6513**] notified via
   voicemail per her request
   --difficult access for phlebotomy, will need PICC monday
   --amio not yet restarted given recent TSH elevation
   --stool cultures sent to w/u ?GI source of GNRs
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2140-4-24**] 12:00 AM
   Metronidazole - [**2140-4-24**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2140-4-25**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2140-4-24**] 05:50 PM
   Morphine Sulfate - [**2140-4-24**] 05:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-4-25**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 58 (51 - 65) bpm
   BP: 112/36(55) {75/21(36) - 134/67(73)} mmHg
   RR: 21 (17 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  3,047 mL
                                                                    276 mL
   PO:
                                                                  1,130 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,340 mL
                                                                    176 mL
   Blood products:
                                                                    577 mL
   Total out:
                                                                  5,090 mL
                                                                    760 mL
   Urine:
                                                                  5,090 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,043 mL
                                                                   -484 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   GEN:  Well-appearing, lying in bed in no distress, sleeping but easily
   arrousable.
   HEENT:  PERRL (3mm --> 2mm); dry MM
   CV:  Regular. Split S2. II/VI systolic murmur at RUSB
   PULM: Occasional crackles anteriorly, decreased breath sounds at R base
   ABD:  Soft.  Non-tender throughout.  No palpable masses.
   EXT:  Warm.  No edema.
   NEURO:  Alert and oriented
   Labs / Radiology
   290 K/uL
   9.8 g/dL
   89 mg/dL
   1.9 mg/dL
   23 mEq/L
   3.6 mEq/L
   26 mg/dL
   104 mEq/L
   139 mEq/L
   28.2 %
   14.4 K/uL
        [image002.jpg]
                             [**2140-4-23**]  09:51 PM
                             [**2140-4-24**]  01:30 AM
                             [**2140-4-24**]  06:19 AM
                             [**2140-4-24**]  01:29 PM
                             [**2140-4-24**]  03:49 PM
                             [**2140-4-24**]  10:08 PM
                             [**2140-4-25**]  04:57 AM
   WBC
   26.2
   17.9
   14.4
   Hct
   25.3
   22.8
   26.6
   33.0
   27.7
   29.1
   28.2
   Plt
   275
   294
   290
   Cr
   2.0
   1.8
   1.9
   TropT
   0.04
   0.05
   Glucose
   131
   93
   89
   Other labs: PT / PTT / INR:26.2/40.2/2.6, CK / CKMB /
   Troponin-T:147/6/0.05, ALT / AST:55/62, Alk Phos / T Bili:74/0.3,
   Amylase / Lipase:/268, Differential-Neuts:75.0 %, Band:18.0 %,
   Lymph:0.0 %, Mono:5.0 %, Eos:0.0 %, Albumin:2.8 g/dL, LDH:299 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.5 mg/dL, PO4:2.8 mg/dL
   Imaging: [**4-24**] CXR:
   Portable AP chest radiograph was compared to [**2140-4-23**].
   There is interval development of bilateral perihilar opacities
   continuing
   towards the lung bases that in combination with Kerley B lines are
   highly
   suspicious for interval development of moderate-to-severe pulmonary
   edema.
   Heart size is also slightly enlarged. The hilar vessels are
   indistinct.
   There is small pleural effusion. Extensive calcifications of the mitral
   annulus are again noted, unchanged.
   [**4-23**] CT abd w/o contrast:
   IMPRESSION:
   1. A large heterogeneous left upper abdominal mass in close proximity
   to
   descending colon at the splenic flexure. This could certainly represent
   a
   hematoma although a mass associated with the pancreas or descending
   colon
   (such as a GIST) are also considerations. A splenic origin could also
   be
   considered. Consider MR for further characterization or ultrasound to
   assess
   for vascularity.
   2. Area of stranding about the descending colon and mass, non-specific
   for an
   inflammatory or infectious process.
   3. Otherwise similar to prior study demonstrating colonic
   diverticulosis
   without evidence of diverticulitis, cholelithiasis, and hypodense foci
   in the
   liver.
   Microbiology: [**4-23**] Blood CX w/ GNR X 4
   [**4-24**] Blood cx pending
   [**4-23**] MRSA screen pending
   [**4-23**] Urine Cx neg
   Assessment and Plan:  85F with history of newly noted abdominal mass,
   now being admitted with sepsis.
   #. Hypoxia
   Fluid overload yesterday in the setting of FFP. Better post diuresis.
   Exam still with evidence of pulmonary edema today
   - continue diuresis goal -1L negative today, f/u IO and weights, pm
   lytes
   - outpt cardiologist [**Doctor Last Name 6512**] ([**Hospital1 12**]) to send further records regarding
   cardiac history
   #. Sepsis.  Clinically improved, WBC and fever curve trending down.
   Cultures growing GNR in blood  concern for GI source given mass. No
   pyuria to suggest urinary tract infection. Note pt on chronic keflex.
   - Continue to cover enteric GNR with pip/tazo.
   - IVF and pressors to maintain SBP>90 (has wide pulse pressure so favor
   using SBP)
   - Blood/urine cultures pending
   - MRI abdomen to better evaluate site of abdominal mass
   - Holding coumadin and plavix (no stents) in case of possible biopsy
   #. Anemia.  At baseline upon presentation; after 4 liters of IVF,
   decreased to nadir of 22.8, followed by one unit of pRBCs.  GI source
   is possible as noted to have BRBPR with bowel movement soon after
   arrival to MICU; the large abdominal mass may also represent hematoma.
   Hemolysis labs unrevealing.
   [**Month (only) 8**] be due to diverticular bleed, also consider ischemic colitis, or
   bleeding related to mass
   - Active T&S
   - Q6H hct (bumped well after transfusion)
   - Reverse INR with vitamin K and FFP
   # Abdominal mass.  Diagnosis is as yet to be determined.  Based on CT
   report (heterogeneous left upper abdominal mass with areas of low and
   high density suggesting hemorrhage; underlying tumor is suspected;
   origin of mass is not clear, but not likely adrenal, renal or gastric
   in origin; given mass effect on the colon, retroperitoneal mass such as
   pancreatic hemorrhagic tumor or hemorrhagic pseudocyst arising from the
   pancreatic tail is considered) there are a few areas of origin
   possible.
   - MRI as above
   - General surgery ([**Doctor Last Name 2149**]) and GI following, recs appreciated
   #. Atrial fibrillation.
   - Continue amiodarone.
   - Will hold coumadin given elevated INR.
   - Give additional vitamin K today in anticipation of abdominal mass
   biopsy
   #. Pancreatitis.  Has elevated lipase though exam is not overwhelming
   and CT does not show clear evidence of pancreatitis.
   - PO as tolerated
   #. Transaminitis.  Not severe and seen previosly.  [**Month (only) 8**] be related to
   statin or hypothyroidism.
   #. Chronic kidney disease.  At baseline.  Will monitor closely and use
   contrast/gadolinium sparingly.
   #. Elevated TSH.  No prior diagnosis of hypothyroisism; is on
   amiodarone so at increased risk for thyroid dysfunction. T4 is WNL. [**Month (only) 8**]
   be sick euthyroid syndrome. Repeat TFTs as an outpatient.
   #. Coronary artery disease.
   - Continue statin/zetia; consider holding plavix
   #. Hyperlipidemia.
   - Continue statin/zetia
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2140-4-23**] 10:53 PM
   20 Gauge - [**2140-4-24**] 02:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin) heparin SQ when INR<2
   Stress ulcer: Not indicated
   VAP:  n/a
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2140-04-25 09:01:00 Physician Attending Progress Note
Chief Complaint: gnr bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85F with newly diagnosed abd mass, gnr bacteremia, sepsis on admission,
   flash pulm edema in setting of fluid resuscitation:
   24 Hour Events:
   unable to tolerate mri yesterday
   sob resolved after diuresis
   awaiting picc
   History obtained from Patient
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2140-4-24**] 12:00 AM
   Metronidazole - [**2140-4-24**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2140-4-25**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2140-4-24**] 05:50 PM
   Morphine Sulfate - [**2140-4-24**] 05:55 PM
   Other medications:
   mvi, fa,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Dyspnea, No(t) Tachypnea
   Flowsheet Data as of  [**2140-4-25**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.3
C (97.4
   HR: 51 (51 - 65) bpm
   BP: 96/36(52) {75/21(36) - 134/67(73)} mmHg
   RR: 19 (17 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  3,047 mL
                                                                    288 mL
   PO:
                                                                  1,130 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,340 mL
                                                                    188 mL
   Blood products:
                                                                    577 mL
   Total out:
                                                                  5,090 mL
                                                                    860 mL
   Urine:
                                                                  5,090 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,043 mL
                                                                   -572 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   [**Last Name (un) **], Diminished: r base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   290 K/uL
   89 mg/dL
   1.9 mg/dL
   23 mEq/L
   3.6 mEq/L
   26 mg/dL
   104 mEq/L
   139 mEq/L
   28.2 %
   14.4 K/uL
        [image002.jpg]
                             [**2140-4-23**]  09:51 PM
                             [**2140-4-24**]  01:30 AM
                             [**2140-4-24**]  06:19 AM
                             [**2140-4-24**]  01:29 PM
                             [**2140-4-24**]  03:49 PM
                             [**2140-4-24**]  10:08 PM
                             [**2140-4-25**]  04:57 AM
   WBC
   26.2
   17.9
   14.4
   Hct
   25.3
   22.8
   26.6
   33.0
   27.7
   29.1
   28.2
   Plt
   275
   294
   290
   Cr
   2.0
   1.8
   1.9
   TropT
   0.04
   0.05
   Glucose
   131
   93
   89
   Other labs: PT / PTT / INR:26.2/40.2/2.6, CK / CKMB /
   Troponin-T:147/6/0.05, ALT / AST:55/62, Alk Phos / T Bili:74/0.3,
   Amylase / Lipase:/268, Differential-Neuts:75.0 %, Band:18.0 %,
   Lymph:0.0 %, Mono:5.0 %, Eos:0.0 %, Albumin:2.8 g/dL, LDH:299 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.5 mg/dL, PO4:2.8 mg/dL
   Imaging: mri Pending
   cxr: new infiltrates
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   85F with new abdominal mass, GNR bacteremia, and pulmonary edema with
   aggressive fluid resuscitation, now improved but awaiting stabilization
   to be able to undergo MRI:
   hypoxia: likely CPE
   -review osh records
   -primary cardiologist will consult (from [**Hospital1 **])
   -continue diuresis
   gnr bacteremia:
   -fu spec and [**Last Name (un) 46**]
   -cont broad abx
   -will likely get tte
   -awaiting mri before further invasive procedures ([**Last Name (un) **] vs ct-guided bx)
   anemia: possible slow gib or. Bleed from mass in setting suprather inr
   -monitor hct/ INR, continue vit K, if Hct drops, then FFP to get INR
   less than 1.5
   afib?
   -will discuss with cardiologist whether to continue amiodarone
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2140-4-23**] 10:53 PM
   20 Gauge - [**2140-4-24**] 02:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin, prior to presentation)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor after MRI. She will have Dr [**Last Name (STitle) 860**]
   decide regarding timing of colonoscopy
   Total time spent: 35 minutes